US06444793B1
Human Sonic Hedgehog can be Modified with Palmitic Acid in a Cell-Free System
Soluble Shh was labeled with 3H-palmitic acid in a cell-free system using a modified version of a published procedure (24). A crude microsomal fraction from rat liver was prepared by subjecting a liver homogenate to sequential centrifugation at 3000×g for 10 min, 9000×g for 20 min, and 100,000×g for 30 min. The 100,000×g pellet was suspended in 10 mM HEPES pH 7.4, 10% sucrose and again centrifuged at 100,000×g for 20 min. The final pellet (derived from 10 g of liver) was suspended in 3 mL of 20 mM Tris-HCl pH 7.4, 150 mM NaCl, 1 mM EDTA, 10 μg/mL leupeptin, 0.15% Triton X-100, aliquoted, and stored at −70° C. Reactions containing 3 μg Shh, 1 μL of rat microsomes, 50 ng/mL Coenzyme A (Sigma), 0.3 mM ATP, 20 mM Tris-HCl pH 7.4, 150 mM NaCl, 1 mM EDTA, 10 μg/mL leupeptin, and 0.5 μCi-[9,10-3H]-palmitic acid (50 Ci/mmol; New England Nuclear) were performed at room temperature for 1 h. Reactions were stopped with reducing electrophoresis sample buffer, subjected to SDS-PAGE on a 10-20% gradient gel, and visualized by fluorography.

reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | Coenzyme A | [C@@H]1([C@H](O)[C@H](OP(=O)(O)O)[C@@H](COP(=O)(O)OP(=O)(O)OCC(C)(C)[C@@H](O)C(=O)NCCC(=O)NCCS)O1)N1C=NC=2C(N)=NC=NC12 | C21H36N7O16P3S
reactant | ATP | 0.3 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
solvent | HEPES | 10 mM, pH 7.4 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
solvent | Tris-HCl | 20 mM, 3 mL, pH 7.4 | C(C(CO)(CO)N)O.Cl
solvent | Tris-HCl | 20 mM, pH 7.4 | C(C(CO)(CO)N)O.Cl
product | Palmitic Acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
